US08420816B2
(2S,4S)-1-((R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)-4-fluoropyrrolidine-2-carbonitrile
(R)-2-(6-Chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (10 mg, 0.032 mmol)), HATU (15 mg, 0.039 mmol), (2S,4S)-4-fluoropyrrolidine-2-carbonitrile (4 mg, 0.032 mmol), and N-methylmorpholine (90 μL, 0.097 mmol) were combined in THF (0.5 mL). The reaction mixture was stirred under nitrogen at 40° C. for 10 min and then at room temperature for 30 min. The solution was concentrated and purified by preparative HPLC (10-50% AcCN/H2O with 0.035% TFA) to afford the title compound as a white solid (2 mg, 12%). 1H NMR (500 MHz, CD3OD) δ 0.94 (d, J=6.3 Hz, 3H), 1.05 (d, J=6.3 Hz, 3H), 1.03-1.15 (m, 1H), 2.56-2.65 (m, 3H), 23.89-3.91 (m, 1H), 4.25-4.30 (m, 1H), 4.83-4.87 (m, 1H), 5.09-5.13 (m, 1H), 5.39-5.41 (m, 1H), 5.47-5.66 (m, 1H), 7.87 (s, 1H), 8.27 (s, 1H). [M+H] calc'd for C19H19ClFN5O2, 404; found, 404.

reactant | (R)-2-(6-Chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.032 mmol, 10 mg | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14ClN3O3
reactant | HATU | 0.039 mmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4S)-4-fluoropyrrolidine-2-carbonitrile | 0.032 mmol, 4 mg | F[C@H]1C[C@H](NC1)C#N | C5H7FN2
reactant | N-methylmorpholine | 0.097 mmol, 90 μL | CN1CCOCC1 | C5H11NO
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (2S,4S)-1-((R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)-4-fluoropyrrolidine-2-carbonitrile | 2 mg, 12% | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)N1[C@@H](C[C@@H](C1)F)C#N)C(C)C)=O)=CN2 | C19H19ClFN5O2
